US07772270B2
Compound No. 50: 1-(Naphthaline-1-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid hydroxyamide
200 mg (0.56 mmol) of 1-(naphthaline-1-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid were dissolved in 10 ml of DMF, after which 0.61 mmol of ethyl chloroformate, 1.23 mmol of N-ethylmorpholine and 1.68 mmol of trimethylsilylhydroxylamine were added. After the mixture had been heated at 80° C. for 6 h, the solvent was removed under reduced pressure and the crude product was purified using chromatographic methods.

reactant | 1-(naphthaline-1-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid | 0.56 mmol, 200 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)N1C2C(CC1C(=O)O)CCC2 | C18H19NO4S
reactant | ethyl chloroformate | 0.61 mmol | ClC(=O)OCC | C3H5ClO2
reactant | N-ethylmorpholine | 1.23 mmol | C(C)N1CCOCC1 | C6H13NO
reactant | trimethylsilylhydroxylamine | 1.68 mmol | C[Si](C)(C)NO | C3H11NOSi
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(Naphthaline-1-sulfonyl)octahydrocyclopenta[b]pyrrole-2-carboxylic acid hydroxyamide | ONC(=O)C1CC2C(N1S(=O)(=O)C1=CC=CC3=CC=CC=C13)CCC2 | C18H20N2O4S
